US05113009
The same esterification procedure as in Example 1 was followed with the exception that the L-phenylalanine was replaced with 105.6 g of L-serine and that 105.6 g of methanol and 50.5 g of hydrochloric acid were used. Following cooling to deposit the crystals, which were collected by filtration and then dried to obtain 134.4 g (83.8% yield) of L-serine methyl ester hydrochloride having a purity of 97.0% and containing 0.2% of water and 0.7% of L-serine.

reactant | L-phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | L-serine | 105.6 g | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | hydrochloric acid | 50.5 g | Cl | ClH
solvent | methanol | 105.6 g | CO | CH4O
product | L-serine methyl ester hydrochloride | 134.4 g, 83.8% yield | Cl.COC([C@@H](N)CO)=O | InChI=1S/C4H9NO3.ClH/c1-8-4(7)3(5)2-6;/h3,6H,2,5H2,1H3;1H/t3-;/m0./s1
